US07713994B2
4-{[(1,3-Dioxo-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-methyl}-N-ethyl-benzenesulfonamide
To a suspension of 4-{[(1,3-Dioxo-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-methyl}-benzenesulfonamide (35.7 mg, 0.1 mmol) in Trifluoroacetic acid (250 μL) is added acetaldehyde (16.3 μL, 0.3 mmol) and sodium borohydride (11.4 mg, 0.3 mmol). The reaction mixture is shaken at ambient temperature for 18 hours. The reaction mixture is diluted to 2 mL with N,N-dimethylformamide and purified by C18 reverse phase HPLC.

reactant | 4-{[(1,3-Dioxo-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-methyl}-benzenesulfonamide | 0.1 mmol, 35.7 mg | O=C1NC(C(C2=CC=CC=C12)=CNCC1=CC=C(C=C1)S(=O)(=O)N)=O | C17H15N3O4S
reactant | acetaldehyde | 0.3 mmol, 16.3 μL | C(C)=O | C2H4O
reactant | sodium borohydride | 0.3 mmol, 11.4 mg | [BH4-].[Na+]
solvent | Trifluoroacetic acid | 250 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-{[(1,3-Dioxo-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-methyl}-N-ethyl-benzenesulfonamide | O=C1NC(C(C2=CC=CC=C12)=CNCC1=CC=C(C=C1)S(=O)(=O)NCC)=O | C19H19N3O4S
